US07482448B2
To a mixture of (1-ethyl-2-hydroxy-3-nitro-propyl)-carbamic acid tert-butyl ester (1.83 g, 7.37 mmol) and triethylamine (1.49 g, 14.75 mmol) in dry dichloromethane (25 mL) under N2 is added trimethylsilyl chloride (1.20 g, 11.05 mmol). The mixture is stirred at room temperature for 24 h, then diluted with 40 mL of dichloromethane and washed with water (40 mL). The organic layer is dried over magnesium sulfate and concentrated in vacuum. The residue is purified over 110 g silica gel, eluted with ethyl acetate: heptane (1:4) to afford (1-ethyl-3-nitro-2-trimethylsilanyloxy-propyl)-carbamic acid tert-butyl ester (1.505 g, 86%) as an oil.

reactant | (1-ethyl-2-hydroxy-3-nitro-propyl)-carbamic acid tert-butyl ester | 7.37 mmol, 1.83 g | C(C)(C)(C)OC(NC(C(C[N+](=O)[O-])O)CC)=O | C10H20N2O5
reactant | triethylamine | 14.75 mmol, 1.49 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 11.05 mmol, 1.20 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (1-ethyl-3-nitro-2-trimethylsilanyloxy-propyl)-carbamic acid tert-butyl ester | 1.505 g, 86% | C(C)(C)(C)OC(NC(C(C[N+](=O)[O-])O[Si](C)(C)C)CC)=O | C13H28N2O5Si
